US08183272B2
(5b) 2-Bromo-3-chlorobenzaldehyde
A solution of (2-bromo-3-chloro phenyl)methanol (4.73 g, 21.24 mmol), which had been obtained in Reference example 5(5a), in methylene chloride (120 mL) was added with 1,1,1-tris(acetoxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one (10.8 g, 25.49 mmol) under ice cooling, and stirred at room temperature for 2 hours. The reaction solution was added with a mixture of saturated aqueous sodium hydrogen carbonate solution (60 mL) and saturated aqueous sodium thiosulfate solution (30 mL), and then stirred at room temperature for 0.5 hours. The mixture obtained was extracted with dichloromethane (90 mL×2). After that, the organic layers were combined and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (n-hexane/ethyl acetate=5/1) to give the title compound as a white solid (4.36 g, yield 94%).

reactant | (2-bromo-3-chloro phenyl)methanol | 21.24 mmol, 4.73 g | BrC1=C(C=CC=C1Cl)CO | C7H6BrClO
reactant | sodium hydrogen carbonate | 60 mL | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | 30 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-3-chlorobenzaldehyde | 4.36 g, yield 94% | BrC1=C(C=O)C=CC=C1Cl | C7H4BrClO
